US04452809
Trans-4-[(4-hydroxy-1-phenylmethyl-pyrrolidin-3-yl)oxy]benzamide
A mixture of 28 g. of 1-benzyl-3,4-epoxypyrrolidine and 20.6 g. of 4-hydroxybenzamide was heated at 130° C. for 8 hrs. The cooled mixture was columned on silica gel using 5% methanol in ethyl acetate to elute the product, which was then crystallized from chloroform-benzene-methanol. The yield was 19% of product melting at 133.0°-6.0° C.

reactant | 1-benzyl-3,4-epoxypyrrolidine | C(C1=CC=CC=C1)N1CC2C(C1)O2 | C11H13NO
reactant | 4-hydroxybenzamide | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Trans-4-[(4-hydroxy-1-phenylmethyl-pyrrolidin-3-yl)oxy]benzamide | yield was 19% | O[C@H]1[C@@H](CN(C1)CC1=CC=CC=C1)OC1=CC=C(C(=O)N)C=C1 | C18H20N2O3
